US07977358B2
5-Cyclopropyl-3-methyl-1-(3-trifluoromethoxyphenyl)-1H-pyrazole-4-carboxylic acid
The title compound was prepared by sodium hydroxide hydrolysis of the minor isomer-5-cyclopropyl-3-methyl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester from formation of intermediate 6. MS: 327.1 (MH+).

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 5-cyclopropyl-3-methyl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NN(C1C1CC1)C1=CC(=CC=C1)OC(F)(F)F)C | C17H17F3N2O3
product | 5-Cyclopropyl-3-methyl-1-(3-trifluoromethoxyphenyl)-1H-pyrazole-4-carboxylic acid | C1(CC1)C1=C(C(=NN1C1=CC(=CC=C1)OC(F)(F)F)C)C(=O)O | C15H13F3N2O3
